US05703249
4-Bromomethyl-9-methyl-3,5,8,10-tetraoxabicyclo [5.3.0]decane was prepared in a similar way to 4-bromomethyl-9,9-dimethyl-3,5,8, 10-tetraoxabicyclo[5.3.0]decane starting from 132 mmol (30 g) of 2-bromomethyl-5,6-dihydroxy-1,3-dioxepane and from 0.816 mol (60 ml) of propionaldehyde, fractional distillation giving 25 g (71% yield) from 100° to 102° C. (0.4 mbar).

reactant | 4-bromomethyl-9,9-dimethyl-3,5,8, 10-tetraoxabicyclo[5.3.0]decane | BrCC1OCC2OC(OC2CO1)(C)C | C9H15BrO4
reactant | 2-bromomethyl-5,6-dihydroxy-1,3-dioxepane | 132 mmol, 30 g | BrCC1OCC(C(CO1)O)O | C6H11BrO4
reactant | propionaldehyde | 0.816 mol, 60 ml | C(CC)=O | C3H6O
product | 4-Bromomethyl-9-methyl-3,5,8,10-tetraoxabicyclo [5.3.0]decane | 71% yield | BrCC1OCC2OC(OC2CO1)C | C8H13BrO4
